US07259266B2
Step 2. Preparation of ethyl 7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The mixture of 2-hydroxy-4-fluorobenzaldehyde (10 g, 71.4 mmole), ethyl 4,4,4-trifluorocrotonate (15 mL, 100 mmole), and anhydrous potassium carbonate (14.8 g, 107.1 mmole) in 40 ml dry dimethylformamide was heated to 90° C. for five hours. LC-MS indicated that the reaction was done. After cooling to room temperature, to the reaction was added 500 mL of ethyl acetate. The organic phase was washed with brine (×3), and was then dried over anhydrous magnesium sulfate. After removing the solvent, the residue was purified on silica gel column with 1:18 EtOAc:hexane. It gave 12.5 g (60%) of a light yellow oil. LCMS(ES+) 291.0(M+1, 100), EIHRMS m/z 290.0586 (M−H, C13H9F4O3 calc'd 290.0566). 1H NMR (CDCl3/300 MHz) 7.73(s, 1H), 7.30-7.22(m, 1H), 6.79-6.73(m, 2H), 5.76(q, 1H, J=6.9 Hz), 4.38(m, 2H), 1.37(t, 3H, J=7.2 Hz). 13C (CDCl3/300MH) 167.2, 164.0, 163.9, 155.0(d, J=13.0 Hz), 136.3 (d, J=1.28 Hz), 131.0(d, J=10.4 Hz), 123.5 (q, J=287.5 Hz), 115.0 (dd, J=2.4, 7.3 Hz), 110 (d, J=22.5 Hz), 104.4(d, J=26.0 Hz), 71.0(q, J=33.2 Hz), 61.7 (d, J=10.4 Hz), 14.4. 19F(CDCl3/300 MHz) −79.0(d, J=6.5 Hz), −104.8 m).

reactant | 2-hydroxy-4-fluorobenzaldehyde | 71.4 mmole, 10 g | OC1=C(C=O)C=CC(=C1)F | C7H5FO2
reactant | ethyl 4,4,4-trifluorocrotonate | 100 mmole, 15 mL | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | potassium carbonate | 107.1 mmole, 14.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl 7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 12.5 g, 60% | FC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H10F4O3
